US08614327B2
To a suspension of LiBH4 (55 mg, 2.54 mmol) in anhydrous THF (3 mL) was added a solution of (S)-methyl 4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylate (300 mg, 0.85 mmol) in anhydrous THF at 0° C. The reaction mixture was stirred at 0° C. for 20 min then allowed to come to room temperature and stirred overnight. The reaction mixture was diluted with ethyl acetate (100 mL), washed with water (50 mL), and then brine. The layers were separated, and the organic layer was dried over Na2SO4, filtered, and concentrated to afford (S)-(4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidin-2-yl)methanol as a yellow, viscous oil (275 mg, 100%). LC/MS: m/z 327.2 (M+H)+ at 1.54 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | LiBH4 | 2.54 mmol, 55 mg | [Li+].[BH4-]
reactant | (S)-methyl 4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylate | 0.85 mmol, 300 mg | FC1(C[C@H](N(C1)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)C(=O)OC)F | C13H11F5N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (S)-(4,4-difluoro-1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidin-2-yl)methanol | FC1(C[C@H](N(C1)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)CO)F | C12H11F5N2O3
